US05460966
The single bath process according to the invention was formed by adding 28 liters of water to the machine at 100° F., and subsequently raising and controlling the temperature of the bath by means of the integrated heating element to a temperature in the range of 135°-138° F. To the water was added 7 grams (0.25 grams/liter of bath) of a conventional non-ionic detergent which acts as a wetting agent and 14 grams (0.5 grams/liter of bath) of 56% acetic acid to adjust the pH to 4.5-5.5. Subsequently was added cellulase enzymes commercially available as "BACTOSOL® CA" (a cellulase enzyme containing preparation that hydrolyses cellulose to produce glucose and glucose polymers, available from Sandoz Chemical Inc., Charlotte, N.C.) which was indicated by the manufacturer to be optimally active at a temperature of approximately 130°-150° F., at a pH in the range of 3.8-5.5. Present in the machine was a cellulase enzyme concentration of 2940 CMC units per lb. of denim. Afterwards was added 560 grams (20 grams/liter of bath) of Glauber's salt and 1% by weight (based on the dry denim textile) of a direct dye solution Lumicrease® Orange 3LG (Colour Index Direct Orange 107) (available from Sandoz Chemical Inc.) which was prepared from a dry form according to the manufacturer's instructions. The machine was operated at the "wash" setting for 45 minutes, after which the liquid was removed from the machine. The treated denim was observed to have been effectively overdyed. It was also observed that good exhaustion of the dye was achieved by visual inspection of a sample of the liquid as it was removed from the machine.

reactant | water | 28 liters | O | H2O
reactant | acetic acid | 14 grams | C(C)(=O)O | C2H4O2
product | glucose | O=C[C@H](O)[C@@H](O)[C@H](O)[C@H](O)CO | C6H12O6
